US07820649B2
A mixture of 4-{4-Amino-3-[(isopropylcarbamoylmethyl)carbamoyl]phenyl}perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester (INTERMEDIATE V.2) (300 mg, 0.69 mmol) and ethyl 3-methoxybenzimidate hydrochloride (INTERMEDIATE II.2) (298 mg, 1.38 mmol) in EtOH (6 mL) was heated at reflux temperature for 16 h. The reaction mixture was cooled, filtered and the filtrate concentrated in vacuo. The crude residue was purified by preparative HPLC to afford 4-[3-(isopropylcarbamoylmethyl)-2-(3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl]perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester (INTERMEDIATE VII.1) (50 mg, 0.09 mmol, 13%).

reactant | 4-{4-Amino-3-[(isopropylcarbamoylmethyl)carbamoyl]phenyl}perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 0.69 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC(=C(C=C1)N)C(NCC(NC(C)C)=O)=O | C22H35N5O4
reactant | ethyl 3-methoxybenzimidate hydrochloride | 1.38 mmol, 298 mg | Cl.COC=1C=C(C(OCC)=N)C=CC1
solvent | EtOH | 6 mL | CCO | C2H6O
product | 4-[3-(isopropylcarbamoylmethyl)-2-(3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl]perhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 0.09 mmol, 50 mg, 13% | C(C)(C)(C)OC(=O)N1CCN(CCC1)C=1C=C2C(N(C(=NC2=CC1)C1=CC(=CC=C1)OC)CC(NC(C)C)=O)=O | C30H39N5O5
